US07223789B2
Step 4: 1-methoxy-9-methyl-6-nitro-9H-4-carbazolecarboxylic acid
Methyl-1-methoxy-9-methyl-6-nitro-9H-4-carbazolecarboxylate (500 mg) was suspended in methanol (15 ml) and added with 1 M NaOH (10 ml). The reaction mixture was refluxed for 18 hrs. Methanol was evaporated and the compound was diluted with water followed by addition of HCl. The precipitate was filtered to get a brown solid.

reactant | Methyl-1-methoxy-9-methyl-6-nitro-9H-4-carbazolecarboxylate | 500 mg | COC(=O)C1=CC=C(C=2N(C3=CC=C(C=C3C12)[N+](=O)[O-])C)OC | C16H14N2O5
reactant | NaOH | 1 M, 10 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-methoxy-9-methyl-6-nitro-9H-4-carbazolecarboxylic acid | COC1=CC=C(C=2C3=CC(=CC=C3N(C12)C)[N+](=O)[O-])C(=O)O | C15H12N2O5
